US07557213B2
0.896 mL of 3,4-(ethylenedioxy)phenylmagnesium bromide (0.448 mmol, 0.5M in THF) was added to 85 mg (0.204 mmol) of 1-(6-Bromo-pyridin-2-ylmethyl)-7-methyl-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid methoxy-methyl-amide dissolved in 1 mL of THF and the reaction was stirred at room temperature for 1 hour. Saturated ammonium chloride was added and the aqueous layer was extracted with dichloromethane (3×10 mL). The combined organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo. The crude product was purified by flash column chromatography using 20-100% ethyl acetate in hexane and further purified on the reverse phase HPLC with a C18 column, gradient of 20-70% acetonitrile—0.1% TFA to yield 38.2 mg of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(2,3-dihydro-benzo[1,4]dioxine-6-carbonyl)-7-methyl-1H-[1,8]naphthyridin-4-one as a white solid. LC-MSD, m/z for C24H18BrN3O4 [M+H]: 492.05 LC retention time on HPLC, C18 column gradient 20-95% acetonitrile with 0.1% TFA in 4 minutes: 2.4 min

reactant | 3,4-(ethylenedioxy)phenylmagnesium bromide | 0.448 mmol, 0.5M, 0.896 mL | C1COC2=C[C-]=CC=C2O1.[Mg+2].[Br-]
reactant | 1-(6-Bromo-pyridin-2-ylmethyl)-7-methyl-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid methoxy-methyl-amide | 0.204 mmol, 85 mg | CON(C(=O)C1=CN(C2=NC(=CC=C2C1=O)C)CC1=NC(=CC=C1)Br)C | C18H17BrN4O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(2,3-dihydro-benzo[1,4]dioxine-6-carbonyl)-7-methyl-1H-[1,8]naphthyridin-4-one | 38.2 mg | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=C(N=C12)C)=O)C(=O)C1=CC2=C(OCCO2)C=C1 | C24H18BrN3O4
